US06107291
1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-azepane-2-carboxylic acid hydroxyamide was synthesized from 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanyl methyl-azepane-2-carboxylic acid tert-butyl ester in the same manner as the procedures used for the preparation of Acetic acid 2-hydroxycarbamoyl-1-(4-methoxybenzene sulfonyl)-azepan-3-ylmethyl ester: MS (M+H)+ =451, (M+NH4)+ =468.

reactant | 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanyl methyl-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(N(CCCCC1SC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C25H33NO5S2
reactant | Acetic acid 2-hydroxycarbamoyl-1-(4-methoxybenzene sulfonyl)-azepan-3-ylmethyl ester | ONC(=O)C1N(CCCCC1COC(C)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C17H24N2O7S
product | 1-(4-Methoxy-benzenesulfonyl)-3-phenylsulfanylmethyl-azepane-2-carboxylic acid hydroxyamide | ONC(=O)C1N(CCCCC1CSC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C21H26N2O5S2
